US05739140
3-Phenyl-1-1-propyl magnesium bromide was prepared from the reaction of 3-phenyl-1-bromopropane (8.0 mL. 52.6 mmol) and magnesium turnings (1.40 g, 57.6 mmol) in THF. This solution was added dropwise to an ice-water cooled solution of 3-methyl-para-anisaldehyde (7.70 mL. 52.6 mmol) in THF. The resulting reaction was allowed to warm to room temperature, and after 1h was partitioned between aqueous ammonium chloride and ether. The organic phase was dried over magnesium sulfate, concentrated, and purified by chromatography over silica gel eluted with 15% ethyl acetate in hexanes to afford 8.35 g of 2-methyl-4-(1-hydroxy-4-phenyl-1-butyl) anisole as a clear oil.

reactant | 3-phenyl-1-bromopropane | 52.6 mmol, 8.0 mL | C1(=CC=CC=C1)CCCBr | C9H11Br
reactant | magnesium | 57.6 mmol, 1.40 g | [Mg] | Mg
reactant | 3-methyl-para-anisaldehyde | 52.6 mmol, 7.70 mL | CC=1C=C(C=O)C=CC1OC | C9H10O2
solvent | THF | C1CCOC1 | C4H8O
product | 2-methyl-4-(1-hydroxy-4-phenyl-1-butyl) anisole | 8.35 g | CC1=C(C=CC(=C1)C(CCCC1=CC=CC=C1)O)OC | C18H22O2
